US04636521
(i) N-[(4-Nitrophenyl)methyl]methanesulphonamide
A mixture of N-(methylsulphonyl)acetamide potassium salt (23 g) and 4-nitrobenzyl bromide (24 g) in dry DMF (160 ml) was stirred in an oil bath at 130° for 2 h. After standing overnight at room temperature, a solution of sodium hydroxide (8 g) in water (50 ml) was added and the mixture stirred under nitrogen for 0.75 h. The mixture was diluted with water (900 ml) and the product extracted into ethyl acetate (2×400 ml). The combined extract was washed with brine (3×200 ml), dried (Na2SO4) and evaporated in vacuo to leave an orange solid (22 g).

reactant | N-(methylsulphonyl)acetamide potassium salt | 23 g | [K].CS(=O)(=O)NC(C)=O
reactant | 4-nitrobenzyl bromide | 24 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | sodium hydroxide | 8 g | [OH-].[Na+]
solvent | DMF | 160 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
solvent | water | 900 ml | O | H2O
product | N-[(4-Nitrophenyl)methyl]methanesulphonamide | 22 g | [N+](=O)([O-])C1=CC=C(C=C1)CNS(=O)(=O)C | C8H10N2O4S
